US07592454B2
Ethyl-5-methyl-6-(4-toluidino)-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (73 mg, 0.214 mmol) was dissolved in anhydrous THF (1 mL) under N2 and LAH (1M in THF, 0.42 mmol) was added slowly. The reaction was brought to reflux for 2 hours. The reaction was quenched by the addition of water (16 μL), 15% aq. NaOH (16 μL) and then water (49 μL). The reaction was allowed to stir for 10 minutes between each addition. The aluminum salts were removed by filtration. The filtrate was evaporated and purified by silica gel column chromatography (10%, then 20% EtOAc-Hex) to give 2,5-dimethyl-N-(4-methylphenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-amine (15 mg, 23%). 1H NMR (CDCl3, 300 MH2) δ 7.23-7.27 (m, 1H), 6.89-7.03 (m, 3H), 6.88 (d, 1H, J=7.3 Hz), 6.54 (d, 2H, J=8.4 Hz), 3.70 (s, 5H), 2.79-2.89 (m, 4H), 2.58 (s, 3H), 2.23 (s, 3H) ppm.

reactant | Ethyl-5-methyl-6-(4-toluidino)-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 0.214 mmol, 73 mg | C(C)OC(=O)N1CC2=C(N(C=3C(=CC=CC23)NC2=CC=C(C=C2)C)C)CC1 | C22H25N3O2
reactant | LAH | 0.42 mmol, 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2,5-dimethyl-N-(4-methylphenyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-amine | 15 mg, 23% | CN1CC2=C(N(C3=C(C=CC=C23)NC2=CC=C(C=C2)C)C)CC1 | C20H23N3
